US07618990B2
A saturated solution of HCl in ethyl acetate (20 mL) was added under nitrogen to a solution of 1-[[(1,1-dimethylethoxy)carbonyl]amino]cyclopropane carboxylic acid ethyl ester (10.07 g, 43.9 mmol), prepared in the previous step, in 20 mL of ethyl acetate at room temperature. After the addition, the reaction was stirred at room temperature for 1 h. The solid present was collected by filtration, rinsed with ethyl acetate and dried under reduced pressure to give 1-ethoxycarbonyl-cyclopropyl-ammonium chloride as a white solid.

reactant | HCl | Cl | ClH
reactant | 1-[[(1,1-dimethylethoxy)carbonyl]amino]cyclopropane carboxylic acid ethyl ester | 43.9 mmol, 10.07 g | C(C)OC(=O)C1(CC1)NC(=O)OC(C)(C)C | C11H19NO4
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1-ethoxycarbonyl-cyclopropyl-ammonium chloride | [Cl-].C(C)OC(=O)C1(CC1)[NH3+] | InChI=1S/C6H11NO2.ClH/c1-2-9-5(8)6(7)3-4-6;/h2-4,7H2,1H3;1H
